US04435385
(a) BOC-Cys(MBzl)-Thr-ol
2.1 ml N-methylmorpholine are added with stirring to a solution of 6.3 g Boc-Cys(MBzl)-OH in 50 ml THF, followed by drop-wise addition at -15° C. of 2.4 ml chloroformic acid isobutyl ester. After stirring for 5 minutes at -15° C. a solution of 3.3 g H-Thr-ol hydrochloride and 4.1 ml N-methylmorpholine in 30 ml DMF, pre-cooled to -10° C. is added. The reaction mixture is stirred for 2 hrs. at 0° C. and for a further 2 hrs. at room-temperature. 50 ml 10% KHCO3 -solution are added and the whole concentrated under vacuum. After dilution with AcOEt, washing 3× with 2 N citric acid, 3× with KHCO3 -solution and 1× with NaCl solution, the organic phase is dried over Na2SO4 and evaporated under vacuum to yield the title compound:

reactant | N-methylmorpholine | 2.1 ml | CN1CCOCC1 | C5H11NO
reactant | Boc-Cys(MBzl)-OH | 6.3 g | N([C@@H](CSCC1=CC=C(C)C=C1)C(=O)O)C(=O)OC(C)(C)C | C16H23NO4S
reactant | chloroformic acid isobutyl ester | 2.4 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | H-Thr-ol hydrochloride | 3.3 g | N[C@@H]([C@H](O)C)CO.Cl
reactant | N-methylmorpholine | 4.1 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | BOC-Cys(MBzl)-Thr-ol | N([C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H]([C@H](O)C)CO)C(=O)OC(C)(C)C | C20H32N2O5S
